US04880809
A mixture of 7-butoxy-1,2-dihydro-3-naphthoic acid (0.9 g) and powdery sulfur (0.25 g) is heated at 200°-210° C. for 35 minutes. After cooling, the mixture is dissolved in ethyl ether (200 ml). The solution is extracted with a 0.5N aqueous solution of sodium hydroxide. The aqueous layer is made acid with concentrated hydrochloric acid, and the precipitating crystals are collected by filtration. The crystals are dissolved in acetone, and insolubles are filtered off. The filtrate is concentrated under reduced pressure to allow crystals to precipitate. To the precipitates is added (100 ml), and the precipitates are collected by filtration to afford 6-butoxy-2-naphthoic acid

reactant | 7-butoxy-1,2-dihydro-3-naphthoic acid | 0.9 g | C(CCC)OC1=CC=C2C=C(CCC2=C1)C(=O)O | C15H18O3
reactant | sulfur | 0.25 g | [S] | S
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 6-butoxy-2-naphthoic acid | C(CCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C15H16O3
